US05811596
Synthesis of (CF3)2CHOCH2OCH(CF3)2
A 300 ml reactor, which had been cooled down in dry ice/acetone bath to -20° C., was charged with 111.3 g of fuming sulfuric acid, 9.3 g of paraformaldehyde and 52.8 g of HFIPA, followed by stirring for 20 minutes. After stopping stirring, it was cooled down to room temperature by standing still. With this, the contents were separated into two layers. The organic matter of the upper layer was taken out and then washed with 50 ml of 5% sodium hydrogencarbonate aqueous solution. With this, it was separated into two layers to obtain an organic matter.

reactant | sulfuric acid | 111.3 g | S(O)(O)(=O)=O | H2O4S
reactant | paraformaldehyde | 9.3 g | C=O | CH2O
reactant | HFIPA | 52.8 g | C(C(F)(F)F)(C(F)(F)F)O | C3H2F6O
solvent | dry ice acetone | C(=O)=O.CC(=O)C
product | (CF3)2CHOCH2OCH(CF3)2 | C(C(F)(F)F)(C(F)(F)F)OCOC(C(F)(F)F)C(F)(F)F | C7H4F12O2
